US09212163B2
Preparation of 1-(3,5-Difluoro-4-methoxyphenyl)-2,2,2-trifluoroethanone
Isopropyl magnesium chloride lithium chloride complex (22.0 mL, 28.02 mmol) was added dropwise to a stirred solution of 5-bromo-1,3-difluoro-2-methoxybenzene (5.0 g, 22.42 mmol) at −5° C. in THF (100 mL) and the reaction mixture was stirred at same temperature for 30 min. Methyl trifluoroacetate (3.67 g, 28.69 mmol) was added dropwise and then the reaction mixture was stirred at ambient temperature for 2 h. A 2 N HCl solution (200 mL) was added to quench the reaction and then it was extracted with diethylether. The organic combined layers were washed with brine dried (Na2SO4), filtered and concentrated to afford the title compound (5.4 g, crude) as a yellow liquid. The material was taken on to next step without further purification. 1H NMR (400 MHz, CDCl3) δ 7.68-7.60 (m, 2H), 4.19 (s, 3H); ESIMS m/z 240.1 ([M]+).

reactant | 5-bromo-1,3-difluoro-2-methoxybenzene | 22.42 mmol, 5.0 g | BrC=1C=C(C(=C(C1)F)OC)F | C7H5BrF2O
reactant | Methyl trifluoroacetate | 28.69 mmol, 3.67 g | FC(C(=O)OC)(F)F | C3H3F3O2
reactant | HCl | 2 N, 200 mL | Cl | ClH
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-(3,5-Difluoro-4-methoxyphenyl)-2,2,2-trifluoroethanone | 5.4 g | FC=1C=C(C=C(C1OC)F)C(C(F)(F)F)=O | C9H5F5O2
